US08106235B2
1 ml (1 mmol) of an aqueous solution of sodium hydroxide (1 M) is added to a solution of 200 mg (0.41 mmol) of ethyl 4′-(2,3-dihydroxypropyl)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate in 5 ml of tetrahydrofuran and 2 ml of ethanol. The reaction mixture is stirred for 48 h while heating at 50° C. After the reaction mixture has returned to ambient temperature, 2 ml (2 mmol) of a solution of hydrochloric acid (1 N) are added. The medium is extracted with ethyl acetate. The organic phase is washed with water, and then dried over magnesium sulfate. After evaporation of the solvents, the product obtained is purified by crystallization from a heptane/diethyl ether mixture. 180 mg of 4′-(2,3-dihydroxypropyl)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylic acid are obtained (beige solid, Mp=145° C., yield=96%).

reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | ethyl 4′-(2,3-dihydroxypropyl)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate | 0.41 mmol, 200 mg | OC(CC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CO | C32H38O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4′-(2,3-dihydroxypropyl)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylic acid | 180 mg, yield=96% | OC(CC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CO | C30H34O4
